US05591751
8.2 g of potassium carbonate was added to a suspension of 3.0 g of 4-amino-3-methylbenzoic acid in 60 ml of acetone and 60 ml of water. Thereto was dropwise added, with ice-cooling, a solution of 4.0 g of cinnamoyl chloride in 30 ml of acetone. The mixture was stirred at the same temperature for 30 minutes to give rise to a reaction. The reaction mixture was poured into ice water, and the mixture was made acidic with concentrated hydrochloric acid. The resulting precipitate was collected by filtration, washed with water, and recrystallized from methanol to obtain 2.9 g of 4-cinnamoylamino-3-methylbenzoic acid as a white powder.

reactant | potassium carbonate | 8.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-amino-3-methylbenzoic acid | 3.0 g | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | cinnamoyl chloride | 4.0 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | 60 ml | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-cinnamoylamino-3-methylbenzoic acid | 2.9 g | C(C=CC1=CC=CC=C1)(=O)NC1=C(C=C(C(=O)O)C=C1)C | C17H15NO3
